US05854084
The starting reactant is phenylhydrazine. The hydrazine group is protected, the aromatic ring is nitrated and subsequently, the nitro-product is chromatographed, reduced to amine, reacted with nitrous acid and sodium iodide to give p-iodo-substituted protected phenylhydrazine. Subsequently it is reacted with hexabutylditin and tetrakis (triphenylphosphine)palladium(0) and then with sodium iodide (NaI125) in the presence of such oxidizing agent as Chloramine-T. The final step, deprotection, gives p-I125 -iodophenylhydrazine.

reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | hexabutylditin | CCCC[Sn](CCCC)CCCC.CCCC[Sn](CCCC)CCCC
reactant | sodium iodide | [I-].[Na+]
reactant | Chloramine-T | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
product | iodophenylhydrazine | IN(N)C1=CC=CC=C1 | C6H7IN2
